US09062045B2
5-Bromo-3-fluoro-2-hydrazinylpyridine (H.i)
To a solution of 5-bromo-2,3-difluoropyridine (15 g, 77 mmol)) in EtOH (250 ml) was added hydrazine hydrate (19.36 g, 387 mmol), the mixture was heated to reflux and stirred overnight (16 hr). The solvent of the reaction mixture was evaporated about half under reduced pressure, then cooling in an ice bath there precipitation was occurred, filtered and washed the product with a minimum of EtOH and water, dried in vacuum to obtain pure desired product as white powder (15 g, yield 94%). LCMS (method A): [M+H]+=206.0, 208.0, tR=1.01 min.

reactant | 5-bromo-2,3-difluoropyridine | 77 mmol, 15 g | BrC=1C=C(C(=NC1)F)F | C5H2BrF2N
reactant | hydrazine hydrate | 387 mmol, 19.36 g | O.NN
solvent | EtOH | 250 ml | CCO | C2H6O
product | 5-Bromo-3-fluoro-2-hydrazinylpyridine | 15 g, yield 94% | BrC=1C=C(C(=NC1)NN)F | C5H5BrFN3
